US05470947
p-Nitrophenyl nicotinate.
To 9.85 g, 80 mmoles, nicotinic acid and 13.35 g, 96 =moles p-nitrophenol in 250 ml DMF was added 16.5 g, 80 mmoles DCC with stirring in ice-bath. After 1 hour at 0° C. and 3 hours at room temperature the urea was filtered off and the product was precipitated by the addition of an equal volume of water. Filtration, drying in vacuo and recrystallization from i-PrOH gave 11.22 g, 57% of white needles, m.p. 172.5°-173° C. (24)

reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | DCC | 80 mmoles, 16.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | p-Nitrophenyl nicotinate | 11.22 g, 57% | C(C1=CN=CC=C1)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O4
